US09416137B2
A mixture of 2R,6R,11R)-N-(2,4-dimethoxybenzyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide hydrochloride (400 mg, 0.93 mmol), potassium carbonate (385 mg, 2.78 mmol), and bromoethyl methyl ether (142 mg, 1.02 mmol) in acetonitrile (15 mL) was heated at 65° C. overnight. Further bromoethyl methyl ether was added (70 mg, 0.50 mmol) and the to reaction heated at 65° C. for 24 hours. The reaction mixture was allowed to return to ambient temperature before partitioning between ethyl acetate (100 mL) and water (100 mL). The organic phase was dried (MgSO4). Filtration and removal of the solvent under reduced pressure gave (2R,6R,11R)-N-(2,4-dimethoxybenzyl)-3-(2-methoxyethyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide (360 mg, 86% yield); LC/MS (M+H)+=453.2.

reactant | N-(2,4-dimethoxybenzyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide hydrochloride | 0.93 mmol, 400 mg | Cl.COC1=C(CNC(=O)C2=CC3=C(CC4NCCC3(C4C)C)C=C2)C=CC(=C1)OC
reactant | potassium carbonate | 2.78 mmol, 385 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethyl methyl ether | 1.02 mmol, 142 mg | COCCBr | C3H7BrO
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | (2R,6R,11R)-N-(2,4-dimethoxybenzyl)-3-(2-methoxyethyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide | 360 mg, 86% yield | COC1=C(CNC(=O)C2=CC3=C(C[C@H]4N(CC[C@@]3([C@H]4C)C)CCOC)C=C2)C=CC(=C1)OC | C27H36N2O4
